US04692443
3H-Imidazolo[4,5-c]pyridine was prepared by the method of Stanovik and Tisler, Synthesis, 2, 120 (1974). A mixture of 2.2 g (0.02 mole) of 3,4-diaminopyridine and 5 ml of diethoxymethyl acetate was heated at reflux for two hours. The reaction mixture was cooled and diluted by addition of ethyl acetate. The solid precipitate was collected by filtration and sublimed at 170° C. and 50 torr to give 0.84 g of 3H-imidazolo[4,5-c]pyridine; mp 165°-168° C.

reactant | 3,4-diaminopyridine | 0.02 mole, 2.2 g | NC=1C=NC=CC1N | C5H7N3
reactant | diethoxymethyl acetate | 5 ml | C(C)(=O)OC(OCC)OCC | C7H14O4
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3H-imidazolo[4,5-c]pyridine | 0.84 g | N1=CNC=2C=NC=CC21 | C6H5N3
